Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Bilateral, lower extremity pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a diagnosis of transverse
myelitis (dx ___ after flu shot) c/b chronic b/l ___ pain s/p
nerve stimulator, and a history of zoster encephalitis w/
residual spasticity s/p baclofen pump, who presents from
___ with worsening ___ pain. 

She was admitted to ___ from ___ - ___ for progressive 
b/l
leg pain. The pain was c/w her chronic pain from her TM but
increased in severity. Her pain medications were adjusted and 
she
was discharged on oxycodone 15mg Q4H prn and she was continued 
on
gabapentin and fluoxetine. 

Since her discharge she has required oxycodone more frequently
and is now taking it consistently every 4 hours. She presented
again to ___ on ___ for uncontrolled pain. She did not
have any new weakness/ numbness/ urinary or bowel incontinence.
Her primary neurologist, Dr. ___ transfer to
___ for neurology consultation given lack of improvement with
increased PO meds as an outpatient. 

In the ___ ED, she was afebrile, BPs 140s/70s, SpO2 97% RA.
Labs notable for a Hgb 10.8, CBC, UA, and BMP otherwise
unremarkable. Cardiopulmonary exam normal. Neuro exam notable 
for
decreased sensation of LEs and decreased strength bilaterally.
Neurology and the pain service were notified of the presentation
and recommended to admit to medicine with pain consultation for
management of the nerve stimulator and titration of pain meds.
She was given dilaudid IV, Zofran, and propranolol (home med). 

On arrival to the floor, patient reports that her pain improved
with the dilaudid. She describes the pain as a burning and 
poking
sensation throughout all ___ dermatomes. There has been no 
changes
in the nature of her pain, just increase in severity. She has 
not
noticed any recent changes in strength or increased difficulty
walking. She has no new bowel / bladder incontinence. Her only
complaint is her pain. She has no pain at the site of 
stimulatory
implant. She denies fevers, chills, headache. BMs are regular, 
no
blood or melena. No dyspnea, cough, chest pain, abdominal pain. 

 
Past Medical History:
-HTN 
-HSV Encephalitis (at ___ years old) c/b ___ rigidity s/p baclofen
pump 
-Transverse myelitis (diagnosed ___ s/p nerve stimulator 

 
Social History:
___
Family History:
Reviewed and noncontributory to acute presentation.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
___ Temp: 98.5 PO BP: 147/89 L Sitting HR: 73 RR: 18 
O2
sat: 99% O2 delivery: Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, sensation intact in all extremities. Strength ___
in b/l LEs. Increased tone ___ b/l LEs. Myoclonus at ankles
BACK: midline incision over nerve stimulator, well-healed, no
erythema or tenderness
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, sensation intact in all extremities. Strength ___
in b/l LEs. Increased tone ___ b/l LEs. Myoclonus at ankles
BACK: midline incision over nerve stimulator, well-healed, no
erythema or tenderness
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:40PM BLOOD WBC-6.7 RBC-3.78* Hgb-10.8* Hct-33.3* 
MCV-88 MCH-28.6 MCHC-32.4 RDW-12.7 RDWSD-40.9 Plt ___
___ 01:40PM BLOOD Neuts-67.3 ___ Monos-9.1 Eos-0.1* 
Baso-0.7 Im ___ AbsNeut-4.52 AbsLymp-1.51 AbsMono-0.61 
AbsEos-0.01* AbsBaso-0.05
___ 01:40PM BLOOD Glucose-102* UreaN-10 Creat-0.6 Na-137 
K-4.0 Cl-94* HCO3-31 AnGap-12
___ 01:40PM BLOOD Iron-74
___ 01:40PM BLOOD calTIBC-351 Ferritn-72 TRF-270

DISCHARGE LABS:
===============
___ 06:38AM BLOOD WBC-4.1 RBC-3.86* Hgb-11.0* Hct-34.5 
MCV-89 MCH-28.5 MCHC-31.9* RDW-12.7 RDWSD-41.4 Plt ___
___ 06:38AM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-140 
K-4.2 Cl-95* HCO3-33* AnGap-12
___ 06:38AM BLOOD Calcium-9.6 Phos-4.2 Mg-2.2

IMAGING STUDIES:
================
N/A

MICROBIOLOGY:
=============
_______________________________________________
___ 1:13 pm URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
SUMMARY:
========
Ms. ___ is a ___ woman with a prior diagnosis of MRI 
negative transverse myelitis (___) c/b chronic pain syndrome 
s/p nerve stimulator (___), and a remote history of VZV 
encephalitis w/ residual spasticity s/p baclofen pump, who was 
admitted to the medicine service for pain management. 

ACUTE ISSUES:
=============
# Bilateral, chronic leg pain
Patient first developed neurologic problems when she was 
diagnosed with encephalitis in ___. Per outside records, pt's 
CSF was positive for VZV, and thus she was diagnosed with zoster 
encephalitis. Pt received IV acyclovir for years. Following the 
encephalitis, pt developed significant spasticity requiring 
baclofen pump. In ___, pt had a flu shot. ___ days later, she 
developed burning pain in her knees and also her her feet which 
ascended and stopped around her belly button. She says she never 
had any weakness but had trouble standing for prolonged periods 
due to pain. Overtime the pain migrated down to her groin in a 
circumferential pattern and remained constant from her groin to 
her feet. It is worsened with any movements. She initially was 
evaluated and followed by Dr. ___ at ___ and diagnosed 
with tranverse myelitis given time course and association to the 
flu shot. She has since been treated with IV steroids and IVIG 
(___), which have not helped her pain, and has had multiple 
MRIs which have shown no abnormality. She currently has baclofen 
pump for residual spasticity (from VZV encephalitis) and spinal 
cord stimulator for chronic pain. She was prescribed oxycodone 
15mg Q6H at home, and has been admitted to ___ because she 
continues to have progressive pain despite her current opiate 
pain regimen, was taking Q4 at home, and increased to 15mg Q4H 
PRN while in hospital. She has trialed gabapentin and went up to 
1200 mg TID without improvement, so this has been switched to 
lyrica 75mg BID. She became hypersomnolent with amitriptyline, 
and she has not been taking duloxetine because it changes her 
mood. She expresses that she is hoping to increase her oxycodone 
or to start methadone for pain. 

Her primary neurologist, Dr. ___ transfer to 
___ for neurology consultation given lack of improvement with 
increased PO meds as an outpatient. Neurology and chronic pain 
services were consulted on admission. Per neurology 
recommendations, diagnosis of transverse myelitis still unclear, 
and exam does not fit with peripheral neuropathy either (see 
below). Per chronic pain service, would not start methadone as 
an inpatient or alter narcotic medications from the increase to 
15mg q4 oxycodone. She will need appropriate followup with a PCP 
or pain clinic to provide her opiate prescriptions and/or 
initiate methadone if interested. We increased her opiates to 
oxycodone 15 mg q4h, and switched her gabapentin to lyrica 75mg 
BID per CPS recs.

She will be following up with a new PCP. We attempted to contact 
this new PCP, but the office does not take messages on new 
patients, and was unable to speak directly with the PCP. But I 
was assured that the clinic does prescribe opiates to patients 
on the first visit if deemed appropriate and that they have an 
___ clinic to help with management. 

CHRONIC ISSUES:
===============
#? Transverse myelitis
In reviewing her history, the etiology of her pain syndrome 
(with pain features similar to a small fiber neuropathy without 
classic findings of small fiber neuropathy on exam) remains 
unclear. It does not seem to be transverse myelitis given 
negative imaging (negative MRI spine and brain imaging x2) and 
lack of dermatomal sensory changes on exam, with no clear 
hyperreflexia (although perhaps limited as patient was tensing 
and also is on baclofen pump which can affect reflex testing). A 
polyneuropathy is possible based on the description of her 
symptoms, but the exam does not have objective findings for 
this. Lack of response to prior trial of IVIG also argues 
against autoimmune process. Per neurology, no indication for 
further imaging at this time as patient has no back pain, 
fevers, or new neurologic deficit. Will continue pain management 
as above, and have her follow up with her outpatient 
neurologist, Dr. ___.

TRANSITIONAL ISSUES:
====================
[] Given gabapentin ineffective per patient, switched to lyrica 
75mg BID, her pharmacy is aware
[] Per chronic pain service, will need follow up with primary 
care provider and pain clinic as an outpatient for further 
opioid scripts and to initiate methadone if interested. 
Discharged w/ 5 day prescription for oxycodone 15mg Q4H PRN as 
she was getting in the hospital.
[] Please ensure follow up with outpatient neurologist, Dr. 
___ set up with new neurologist.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
3. Polyethylene Glycol 17 g PO DAILY 
4. Diazepam 5 mg PO Q12H:PRN back spasm 
5. FLUoxetine 10 mg PO DAILY 
6. Propranolol 10 mg PO BID 
7. Gabapentin 200 mg PO TID 

 
Discharge Medications:
1.  Pregabalin 75 mg PO BID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Diazepam 5 mg PO Q12H:PRN back spasm  
3.  FLUoxetine 10 mg PO DAILY  
4.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
5.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth q4 hrs Disp #*30 Tablet 
Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Propranolol 10 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had pain in your legs.  

What happened while I was in the hospital?  
- You were seen by our neurology and chronic pain service. They 
recommended adding nortriptyline for pain, but this medicine did 
not work for you. We then switched you from gabapentin to lyrica 
for pain control. 
- You should follow up with your chronic pain clinic, primary 
care provider, and neurologist on discharge. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___